* K:\work\embedded\simulasi-filter-digital\anti-aliasing-filter.asc
R1 VIN OUTPUT 100 tol=1 pwr=0.1
C1 OUTPUT 0 1µ V=4 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM152R60G105ME15" type="X5R"
V1 VIN N001 SINE(0 .5 1000 0 0 0 10)
V2 N001 0 0.5
.tran 0 .01 0 .001 startup
.wave "anti-aliasing-out.wav" 16 10000  OUTPUT
.backanno
.end
